Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Erythromycin Base / lactose
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F PMH of DM1 complicated by gastroparesis, retinopathy, 
and CKD, and anxiety here for complaints of nausea/vomiting that 
has been ongoing for the past few months since ___. Pt 
reports has struggled with issue for years but the past few 
months has required frequent ER visits for dehydration. 
Outpatient management has been difficult with medication 
primarily being reglan. She was supposed to eat ___ cal but 
had difficulty with blood sugars reported difficult to manage as 
a result. Reports has not been hungry for days due to her nausea 
that can occur anytime of the day and not always associated with 
food or eating. Occasionally has vomiting but no hematemesis. 
Reports mild abdominal pain intermittently cross her epigastrium 
that self resolves. The past two days she reports having bouts 
of diarrhea, but denies any melena. She otherwise has not had 
f/c/s. The reason for her presentation to the hospital today was 
that while at ___, her physician, given her sx, asked if she 
has spoken to her ___ GI doc who recommended inpt eval given 
persistent sx for past few months for EGD under MAC.

In the ED, initial VS were 98.4 104 138/69 16 95%. Received 5mg 
morphine for mild abd discomfort and metoclopramide.

On arrival to the floor, patient reports feeling better after 
getting medications in the ED and reports no feelings of nausea 
and actually hungry for the first time.
 
Past Medical History:
DM1 w/ gastroparesis and retinopathy
DM CKD
Anxiety
HTN
 
Social History:
___
Family History:
Father with DM2
Mom with esophageal abnormality
No other family history of GI disorder or malignancy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS - 98.2 113/65 80 18 97/RA
General: Middle aged, obese woman lying in bed in NAD
HEENT: NC/AT, MM dry
Neck: Supple
CV: RRR, no m/r/g
Lungs: CBAT
Abdomen: Soft, obese, NT/ND, +BS, no appreciable HSM but 
significant central adioposity relative to extremities
GU: No foley
Ext: No c/c/e
Neuro: CNII-XII grossly intact, ___ ___, sensation equal but 
diminshed at extremities with fingers and feet
Skin: No rashes, no sores on feet

DISCHARGE PHYSICAL EXAM:
========================
VS - 98.5, 122/68 (100s-120s/60s-70s), 76 (60s-70s), 16, 98% RA
FSBG - 64-354
General: Awake, alert, appropriately interactive
HEENT: NC/AT, MMM
Neck: Supple
CV: RRR, no m/r/g
Lungs: CBAT
Abdomen: Soft, obese, NT/ND, +BS, no appreciable HSM but 
significant central adioposity relative to extremities
GU: No foley
Ext: No c/c/e
Neuro: CNII-XII grossly intact
Skin: No rashes, no sores on feet
 
Pertinent Results:
LABS:
======
___ 07:00AM BLOOD WBC-9.5 RBC-3.48* Hgb-10.3* Hct-33.3* 
MCV-96 MCH-29.6 MCHC-31.0 RDW-13.1 Plt ___
___ 06:10AM BLOOD WBC-8.6 RBC-3.62* Hgb-10.6* Hct-34.9* 
MCV-97 MCH-29.3 MCHC-30.4* RDW-13.2 Plt ___
___ 06:10AM BLOOD WBC-8.2 RBC-3.52* Hgb-10.4* Hct-34.5* 
MCV-98 MCH-29.6 MCHC-30.3* RDW-13.3 Plt ___
___ 06:25AM BLOOD WBC-10.2 RBC-3.17* Hgb-9.6* Hct-30.7* 
MCV-97 MCH-30.2 MCHC-31.3 RDW-13.3 Plt ___
___ 05:05PM BLOOD WBC-14.6* RBC-3.98* Hgb-11.8* Hct-38.2 
MCV-96 MCH-29.6 MCHC-30.9* RDW-13.3 Plt ___
___ 07:00AM BLOOD Glucose-319* UreaN-20 Creat-1.2* Na-137 
K-4.8 Cl-108 HCO3-21* AnGap-13
___ 06:10AM BLOOD Glucose-343* UreaN-15 Creat-0.9 Na-136 
K-5.0 Cl-110* HCO3-21* AnGap-10
___ 06:10AM BLOOD Glucose-82 UreaN-11 Creat-0.9 Na-141 
K-4.2 Cl-113* HCO3-20* AnGap-12
___ 06:25AM BLOOD Glucose-93 UreaN-26* Creat-1.2* Na-140 
K-3.8 Cl-111* HCO3-25 AnGap-8
___ 05:05PM BLOOD Glucose-280* UreaN-29* Creat-1.4* Na-139 
K-4.4 Cl-103 HCO3-22 AnGap-18
___ 06:25AM BLOOD ALT-18 AST-18 AlkPhos-140* TotBili-0.2
___ 05:05PM BLOOD ALT-26 AST-29 AlkPhos-197* TotBili-0.2
___ 05:05PM BLOOD Lipase-22 GGT-141*
___ 06:25AM BLOOD TSH-4.1
___ 06:25AM BLOOD AMA-NEGATIVE
___ 06:25AM BLOOD ___ * Titer-PND
___ 06:10AM BLOOD IgG-783 IgM-50
___ 05:05PM BLOOD IgA-98
___ 05:05PM BLOOD tTG-IgA-7
___ 07:36AM BLOOD Lactate-1.6
___ 05:49PM BLOOD Lactate-2.9*

IMAGING:
========
Abd US (___):
IMPRESSION: 
1.  Redemonstration of two stable small hepatic lesions, the 
larger of which was previously characterized by MRI as a 
probable adenoma.
2.  Otherwise unremarkable abdominal ultrasound without finding 
to account for the patient's symptoms.

GASTRIC EMPTYING STUDY (___):
IMPRESSION: 
Delayed gastric emptying, with 71% of the ingested activity 
remaining in the stomach.

MRCP (___):
IMPRESSION:
1. No cause for patient's persistent nausea and vomiting 
identified.
2. Stable arterially hyperenhancing hepatic lesions in segments 
___ and
segment 2, likely in keeping with adenomas. No new hepatic 
lesions
identified.
3. No cholelithiasis or choledocholithiasis. Normal caliber main 
pancreatic
duct, CBD and intrahepatic bile ducts.
4. 2.5 cm left adnexal cyst.

 
Brief Hospital Course:
___ y/o F PMH of DM1 complicated by gastroparesis, retinopathy, 
and CKD, and anxiety here for complaints of nausea/vomiting that 
has been ongoing for the past few months c/w prior 
gastroparesis. 

ACTIVE ISSUES:
==============
# Gastroparesis
Sent in by ___ GI given significant sx for past few months 
with evidence of dehydration. Pt improved on admission with 
initiation of reglan and IVF. While here GI evaluated patient 
with repeat gastric emptying study performed while off of reglan 
in order to confirm diagnosis of gastroparesis as prior studies 
had been negative. Repeat gastric emptying study confirmed 
diagnosis with plan for pt to continue her prior regiment for 
gastroparesis except holding the motilium and utilizing reglan 
in the interim given improvement seen while on reglan. Further 
discussion for treatment to be discussed with ___ 
gastroenterologist for long term control. Pt warned of black box 
warnings regarding movement disorders associated with use of 
reglan which pt verbalized understanding of risks/benefits. Pt 
further instructed on non-pharmacologic measures including diet 
modifications such as small, low fat, low lactose meals. Abd US 
was also performed that was otherwise unremarkable to explain 
etiology of mild abd discomfort with MRCP showing no significant 
obstruction with stable liver findings. No findings to explain 
nausea or pain pt had presented with. On day of discharge, 
patient was symptomatically improved and able to tolerate PO 
intake. Outpatient gastroenterologist aware of work-up performed 
with close follow-up planned to be arranged for consideration of 
further management and diagnostics.

# ___ on CKD
Baseline Cr ~1.1-1.3. On presentation 1.4, likely secondary to 
significant dehydration from low PO input. Improved s/p IV and 
PO fluids. Recommended continued ___ follow-up for CKD with 
consideration of diuretic dose adjustment as needed given pt's 
intermittent episodes of dehydration from poor PO.

CHRONIC ISSUES:
===============
# DM1
Longstanding history w/ complications. Last A1c per ___ in 
~8%. While here, was followed by ___ who assisted in dose 
adjustments for pt.

TRANSITIONAL ISSUES:
====================
- Ensure f/u with ___ GI with f/u on studies pending
- GI to consider additional evaluation including EGD or HIDA 
scan
- Continue long term management of gastroparesis for symptomatic 
relief
- Continue close follow-up with ___ for improved DM control
- Continue to monitor for dehydration, encourage PO intake, 
consider titration of diuretics as needed to avoid exacerbation 
of dehydration
- F/u on incidental adrenal cyst seen on 2.5 cm left adnexal 
cyst
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Valsartan 160 mg PO DAILY 
2. Fluoxetine 70 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Atorvastatin 40 mg PO DAILY 
5. Furosemide 80 mg PO QAM 
6. Furosemide 40 mg PO QPM 
7. Topiramate (Topamax) 50 mg PO QAM 
8. Topiramate (Topamax) 200 mg PO QPM 
9. ClonazePAM 2 mg PO QHS 
10. Vitamin D 1000 UNIT PO DAILY 
11. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO DAILY:PRN 
Shoulder Pain 
12. modafinil 100 mg oral PRN Low Energy 
13. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
14. Senna 8.6 mg PO BID:PRN Constipation 
15. Fluticasone Propionate NASAL 1 SPRY NU DAILY Nasal 
Congestion 
16. Insulin  Pump SC (Self Administering Medication)
Target glucose: 80-180
17. Ondansetron 4 mg PO TID:PRN Nausea, vomiting 

 
Discharge Medications:
1. Atorvastatin 40 mg PO DAILY 
2. ClonazePAM 2 mg PO QHS 
3. Fluoxetine 70 mg PO DAILY 
4. Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Basal rate minimum: 0.9 units/hr
Target glucose: ___
Fingersticks: QAC and HS
5. Omeprazole 20 mg PO DAILY 
6. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
7. Senna 8.6 mg PO BID:PRN Constipation 
8. Topiramate (Topamax) 50 mg PO QAM 
9. Topiramate (Topamax) 200 mg PO QPM 
10. Vitamin D 1000 UNIT PO DAILY 
11. Fluticasone Propionate NASAL 1 SPRY NU DAILY Nasal 
Congestion 
12. Furosemide 80 mg PO QAM 
13. Furosemide 40 mg PO QPM 
14. modafinil 100 mg oral PRN Low Energy 
15. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO DAILY:PRN 
Shoulder Pain 
16. Valsartan 160 mg PO DAILY 
17. Ondansetron 4 mg PO TID:PRN Nausea, vomiting 
18. Metoclopramide 5 mg PO QIDACHS Nausea 
Please discuss with your gastroenterologist if you should 
continue this medication. 
RX *metoclopramide HCl 5 mg 1 tablet(s) by mouth QIDACHS Disp 
#*30 Tablet Refills:*0
19. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth Twice a day 
Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroparesis
Type 1 Diabetes
Dehydration leading to Acute Kidney Injury
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for nausea leading to 
dehydration. The cause of your symptoms was found to be due to 
your gastroparesis that was confirmed with repeat studies. You 
improved while you were here with medications and IV fluids.

You were seen by our gastroenterologists here who recommended 
that you follow-up with your outpatient gastroenterologist 1 
week after leaving the hospital. They will adjust your 
medications as needed and may perform additional studies as an 
outpatient.

Please continue your medications as previously prescribed 
including your insulin regiment by ___. You can take reglan 
(metoclopramide) as needed to help with your symptoms but should 
be aware of the warnings regarding its potential adverse effects 
on movements as discussed with you. Please avoid taking your 
motilium at this time since it may interact with reglan. Make 
sure to also eat small, low fat, lactose free meals to minimize 
your symptoms. Be sure to stay well-hydrated.

Continue to follow-up with your primary care physician and 
nephrologist for your other medical problems.

Take care.

- Your ___ Team
 
Followup Instructions:
___